US05236952
3.48 g of phenyltrimethylammonium bromide dibromide dissolved in 30 ml of tetrahydrofuran are added dropwise at room temperature within 45 minutes to 1.9 g of 5'-cyano-3',4'-dimethoxyacetophenone dissolved in 30 ml of tetrahydrofuran, whereupon the mixture is stirred for 30 minutes. Thereupon, the reaction mixture is poured into 120 ml of ice-water and extracted three times with 70 ml of methylene chloride. The combined methylene chloride phases are washed with 2N sulfuric acid, dried over sodium sulfate and evaporated. The residue is chromatographed on 20 g of silica gel with methylene chloride. After recrystallization from methylene chloride/hexane there is obtained 5-(bromoacetyl)-2,3-dimethoxybenzonitrile of m.p. 138°-141°.

reactant | phenyltrimethylammonium bromide dibromide | 3.48 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 5'-cyano-3',4'-dimethoxyacetophenone | C(#N)C=1C(=C(C=C(C1)C(C)=O)OC)OC | C11H11NO3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-(bromoacetyl)-2,3-dimethoxybenzonitrile | BrCC(=O)C=1C=C(C(=C(C#N)C1)OC)OC | C11H10BrNO3
